Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
MICRO:
 =====
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 IMAGING/OTHER STUDIES:
 ====================
CT head ___. There is no evidence of acute intracranial process or 
hemorrhage.
2. Paranasal sinus disease as described above.

CXR: 
No acute cardiopulmonary findings.

 SIGNIFICANT LABS:
 =================
___ 01:40AM BLOOD WBC-10.8* RBC-5.18 Hgb-15.3 Hct-47.3 
MCV-91 MCH-29.5 MCHC-32.3 RDW-13.9 RDWSD-46.6* Plt ___
___ 01:40AM BLOOD Glucose-87 UreaN-27* Creat-0.8 Na-142 
K-4.5 Cl-101 HCO3-26 AnGap-15
___ 01:40AM BLOOD ALT-14 AST-26 AlkPhos-78 TotBili-0.7
___ 01:40AM BLOOD VitB12-511 Folate->20
___ 06:39AM BLOOD %HbA1c-5.3 eAG-105
___ 01:40AM BLOOD TSH-1.6
___ 06:33AM BLOOD Trep Ab-NEG
___ 01:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
___ with EtOH use disorder presents with confusion gait 
instability, and report of rectal bleeding. Concern for 
___ dementia resulting in an inability to care for self at 
home. 

# Cognitive decline: 
# EtOH use disorder: 
# ___ dementia: 
Patient presented for evaluation of persistent confusion and 
problems with short term memory. Review of OSH records indicate 
that he was recently admitted to ___ in late ___ with 
similar concerns and underwent extensive testing including MRI 
brain, EEG, and even testing for rare causes including heavy 
metal poisoning. This workup was unrevealing and his cognitive 
decline was thought to reflect ___ dementia. On this 
admission, patient had second-opinion evaluation by the ___ 
Neurology and Psychiatry team as well as in depth cognitive 
testing with occupational therapy. The consensus conclusion was 
an agreement with the original diagnosis of ___ dementia 
and that the patient did not have capacity to make decisions 
regarding his care. Of note, his cognitive status didn't improve 
substantially with high dose IV thiamine and therefore his 
presentation was not felt to be consistent with a reversible 
Wernicke's encephalopathy. The patient did improve over the 
course of his hospitalization which was likely due to consistent 
schedule and consistent nutrition. The patient's HCP was 
invoked, but given improvement, it was determined that the 
patient had capacity to make decision for home discharge. The 
patient's HCP, ___ brought the patient to his home 
on discharge. The patient has follow up scheduled with Neurology 
at ___ ___ 2:40p with Dr. ___

TRANSITIONAL ISSUES: 
=================
[] continue to assess for home safety concerns. 
[] patient will need to establish a PCP; he will need insurance.

> 30 mins spent coordinating discharge
 
Medications on Admission:
None
 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth PO Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# ___ Dementia: 
# Failure to Thrive: 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a priviliege to care for you at the ___ 
___. You were admitted for worsening confusion. We 
performed several tests and you were evaluated by our 
neurologist and psychiatrist who feel that your confusion is due 
to brain toxicity caused by years of alcohol abuse. You can 
still live a productive life but you will need more help to 
ensure that you are safe. You will be discharged home with ___ 
services to provide more help at home. 

It is important that you follow up with a primary care physician 
and with ___ neurologist which has been arranged for you as an 
outpatient.

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best! 

Sincerely,
Your ___ team

 
Followup Instructions:
___